US07947689B2
2-(5-Methyl-furan-2-yl)-ethylamine
In close analogy to the procedure described above, 2-Methyl-5-(2-nitro-vinyl)-furan is reacted with lithium aluminium hydride to provide the title compound.

reactant | 2-Methyl-5-(2-nitro-vinyl)-furan | CC=1OC(=CC1)C=C[N+](=O)[O-] | C7H7NO3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(5-Methyl-furan-2-yl)-ethylamine | CC1=CC=C(O1)CCN | C7H11NO
